US08609644B2
5α-Hydroxyandrostane-3,17-dione (II-ad)
A solution of androstane-3β,5α,17β-triol (0.48 g) and IBX (0.72 g) in DMSO (8 mL) was stirred at −15° C. overnight and then quenched at room temperature by addition of H2O (40 mL). After stirring for 15 min, the mixture was filtered and the cake was washed with EtOAc. The layers were separated, and the aqueous phase was extracted with EtOAc (3×40 mL). The combined organic extracts were dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/CH2Cl2/acetone 60/20/20) to give the title compound II-ad (0.36 g, 75%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.48 (s, 1H), 2.72 (d, 1H), 2.60-1.18 (m, 20H), 1.23 (s, 3H), 0.86 (s, 3H).

reactant | androstane-3β,5α,17β-triol | 0.48 g | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@]3(C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)O | C19H32O3
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 5α-Hydroxyandrostane-3,17-dione | O[C@]12CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O | C19H28O3
